datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]1[C:2]([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([H:8])([H:9])[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])[H:7],116.068344
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:14]([C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23])[H:7])([H:5])[H:6],39.1204
[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[O:9][O:10][H:11]>>[C:0]([C:1]([O:2][O:3][H:11])([H:7])[H:8])([H:4])([H:5])[H:6].[O:9][O:10],-5.819944
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:8])([H:6])[H:7],40.2919
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:16])([H:13])[H:14])([O:7][O:8][H:15])[H:12])([H:9])([H:10])[H:11],77.404
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:10]([H:11])([H:12])[H:13],10.5437
[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4],0.0
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[H:31])[H:30])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:28])[H:29])[H:30])([C:27]([H:32])([H:33])[H:34])[H:31])[H:12],52.0908
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],50.3754
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:24])([H:25])[H:26])[H:23])[H:12])([H:10])[H:11],42.3839
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([O:16][H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[C:15]([O:16][H:20])([H:18])[H:19],81.00224
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]([c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20])[H:15]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:15])([H:3])[H:4].[S:8][c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],-16.3176
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]=[C:15]([S:16][H:18])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:17])[H:7])([H:5])[H:6].[S:14]=[C:15][S:16][H:18],129.244
[C:0]([S:1]([C:2]([H:10])([H:11])[H:12])(=[O:3])([O:4][H:13])[O:5][O:6])([H:7])([H:8])[H:9]>>[C:0]([S:1]([C:2]([H:10])([H:11])[H:12])(=[O:3])=[O:4])([H:7])([H:8])[H:9].[O:5][O:6][H:13],46.33
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22][H:23]>>[C:0]([C:1]1([H:10])[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:11][O:21][O:22][H:23],62.751632
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21],0.0
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[C:10]([O:11])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][O:11][C:10]([H:12])([H:13])[H:14],27.02864
